US08614327B2
A solution of 4-(4-nitro-3-(trifluoromethyl)phenylamino)-4-oxobutanoic acid (1.1 g, 3.6 mmol) and NaOAc (1.62 g, 19.75 mmol) in acetic anhydride (15 mL) was stirred overnight at 80° C. The reaction mixture was diluted with water and extracted twice with dichloromethane. The organic layers were combined and washed with NaOH (1 N) until pH was 9. The organic layer was separated, dried with MgSO4, filtered and concentrated in vacuo to provide 1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2,5-dione (0.4 g, 39%). LC/MS: m/z 288.9 (M+H)+.

reactant | 4-(4-nitro-3-(trifluoromethyl)phenylamino)-4-oxobutanoic acid | 3.6 mmol, 1.1 g | [N+](=O)([O-])C1=C(C=C(C=C1)NC(CCC(=O)O)=O)C(F)(F)F | C11H9F3N2O5
reactant | NaOAc | 19.75 mmol, 1.62 g | CC(=O)[O-].[Na+]
solvent | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1-(4-nitro-3-(trifluoromethyl)phenyl)pyrrolidine-2,5-dione | 0.4 g, 39% | [N+](=O)([O-])C1=C(C=C(C=C1)N1C(CCC1=O)=O)C(F)(F)F | C11H7F3N2O4
